US05015644
1-Cyano-1-(4-diethylaminophenyl)cyclopentane
In a pressure reactor was placed 43.4 g (0.2 mole) of 1-cyano-1-(4-nitrophenyl)cyclopentane and 500 mL of absolute ethanol. One gram of 5% Pd/C was added, the reactor charged with hydrogen and shaken at room temperature until the theoretical amount of hydrogen had been taken up. The reactor was vented and 22 g (0.5 mole) of acetaldehyde and 2 g of 10% Pd/C was added. The reactor was charged with hydrogen and shaken at room temperature for 16 hours. The reaction mixture was then filtered and the filtrate concentrated in vacuo. The product was purified by chromatography, using a gradient of 90% hexane: 10% ethylacetate to 70% hexane: 30% ethylacetate as eluant. There was obtained 10.7 g of a clear oil.

reactant | 1-cyano-1-(4-nitrophenyl)cyclopentane | 0.2 mole, 43.4 g | C(#N)C1(CCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H12N2O2
reactant | hydrogen | [H][H] | H2
reactant | acetaldehyde | 0.5 mole, 22 g | C(C)=O | C2H4O
reactant | ethanol | 500 mL | C(C)O | C2H6O
catalyst | Pd/C | One gram | [Pd] | Pd
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 1-Cyano-1-(4-diethylaminophenyl)cyclopentane | 10.7 g | C(#N)C1(CCCC1)C1=CC=C(C=C1)N(CC)CC | C16H22N2
